US08022062B2
Use a method similar to the General Procedure 5-1 to couple 7-cyano-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (125 mg, 0.3 mmol) with benzylamine (0.1 mL, 0.9 mmol) using palladium(II) acetate (7 mg, 0.03 mmol), BINAP (37 mg, 0.06 mmol) and cesium carbonate (137 mg, 0.4 mmol) in toluene (3 mL). Purify by chromatography on silica gel eluting with heptane/EtOAc (4:1 to 1:1) to give 6-benzylamino-7-cyano-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a clear oil (60 mg, 54%). ES (ES+) m/z: 374 (M+H)+.

reactant | 7-cyano-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.3 mmol, 125 mg | C(#N)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C14H10F6N2O4S
reactant | benzylamine | 0.9 mmol, 0.1 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | BINAP | 0.06 mmol, 37 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.4 mmol, 137 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.03 mmol, 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-benzylamino-7-cyano-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 60 mg, 54% | C(C1=CC=CC=C1)NC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)C#N | C20H18F3N3O
